US05185351
(ii) 2-butyl-4-iodoimidazol-5-carboxaldehyde
A stirred mixture of 174.1 g (0.62 mol) of 2-butyl-5-hydroxymethyl-4-iodoimidazole and 360 g (4.14 mol) of manganese dioxide in 3 liters of methylene chloride was refluxed for 24 hours using a trap to remove water. The hot reaction mixture was filtered through Celite® which was then washed with 4.5 liters of boiling methylene chloride. The combined filtrates were concentrated to dryness, the residue was dissolved twice in 150 mL of methanol and the solution was concentrated to dryness. The residue was dissolved in 130 mL of methanol and chilled. After crystallization had occurred, 700 mL of water was added slowly. The mixture was chilled, the solid was collected by filtration, and washed with water to give 145.2 g (84%) of product; mp 104°-105° C.

reactant | 2-butyl-5-hydroxymethyl-4-iodoimidazole | 0.62 mol, 174.1 g | C(CCC)C=1NC(=C(N1)I)CO | C8H13IN2O
solvent | methylene chloride | 3 liters | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 4.14 mol, 360 g | [O-2].[O-2].[Mn+4]
product | 2-butyl-4-iodoimidazol-5-carboxaldehyde | 145.2 g, 84% | C(CCC)C=1NC(=C(N1)I)C=O | C8H11IN2O
